US07485744B2
Preparation of dimethyl 2-(1′,1′-dimethylallyl)malonate
The iron catalyst (10.2 mg, 0.025 mmol, 2.5 mol-%) and PPh3 (6.9 mg, 0.03 mmol, 3 mol-%) are placed in a 10-ml Schlenk tube in dry DMF (1 ml) under argon. The allyl carbonate (186 ml, 1 mmol) and dimethyl malonate (232 mg, 2 mmol) are added. The mixture is then heated at 80° C. for 24 h in the sealed Schlenk tube. After cooling to room temperature, the mixture is diluted with diethyl ether (20 ml), and then washed successively with water (10 ml), 2 N NaOH solution (10 ml), and water (10 ml). The combined organic phases are then dried over a 1:1 mixture of Na2SO4 and activated charcoal (about 5 g). After filtration and evaporation, a light yellow liquid is obtained, which is purified by column chromatography (isohexane/diethyl ether, 5:1). Yield: 162 mg (0.81 mmol, 81%).

reactant | PPh3 | 0.03 mmol, 6.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | allyl carbonate | 1 mmol, 186 ml | C(OCC=C)([O-])=O
reactant | dimethyl malonate | 2 mmol, 232 mg | C(CC(=O)OC)(=O)OC | C5H8O4
catalyst | iron | 0.025 mmol, 10.2 mg | [Fe] | Fe
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | dimethyl 2-(1′,1′-dimethylallyl)malonate | CC(C=C)(C)C(C(=O)OC)C(=O)OC | C10H16O4
